US07829572B2
Preparation 1c: 5-Chloro-2-(2-methoxy-phenyl)-3-phenethyl-3H-pyrido[4,3-d]pyrimidin-4-one
5-Chloro-2-(2-methoxy-phenyl)-3-phenethyl-2,3-dihydro-1H-pyrido[4,3-d]pyrimidin-4-one (1.0 g, 2.54 mmol) was placed in a flask, acetone (10 mL) was added and the mixture stirred vigorously at 20° C. A 5% aqueous solution of potassium permanganate (KMnO4) was added (50.8 mmol, 2 equiv.). The reaction progress was monitored by HPLC. The reaction was stirred for 12 hours. Another 2 equiv. of KMnO4 was added and reaction stirred at ambient temperature for 4 hours until reaction was complete according to HPLC. The reaction was then quenched with 10% aqueous NaHSO3, filtered by gravity filtration and partitioned between ethyl acetate and water. The aqueous layer was extracted 3× with ethyl acetate, the combined organic layers washed 1× with water, 1× brine and then dried over anhydrous Na2SO4. Filtration and evaporation of the solvent gave 398 mg of tan solid. The original filter cake was suspended in dichloromethane and sonicated for 5 minutes, then repeated two more times. The suspensions were filtered through a nylon filter, combined and evaporated to dryness to give additional 282 mg of product for combined total crude yield of 680 mg (68%) of a tan solid. The product was used further without purification.

reactant | 5-Chloro-2-(2-methoxy-phenyl)-3-phenethyl-2,3-dihydro-1H-pyrido[4,3-d]pyrimidin-4-one | 2.54 mmol, 1.0 g | ClC1=NC=CC=2NC(N(C(C21)=O)CCC2=CC=CC=C2)C2=C(C=CC=C2)OC | C22H20ClN3O2
reactant | potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | KMnO4 | 2 equiv. | [O-][Mn](=O)(=O)=O.[K+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 5-Chloro-2-(2-methoxy-phenyl)-3-phenethyl-3H-pyrido[4,3-d]pyrimidin-4-one | 398 mg | ClC1=NC=CC=2N=C(N(C(C21)=O)CCC2=CC=CC=C2)C2=C(C=CC=C2)OC | C22H18ClN3O2
